US09169187B2
To 2,3,4-trihydroxybenzophenone (1.60 g, 6.95 mmol) was added DMF (30 ml), 1-bromooctadecane (7.3 g, 21.9 mmol) and potassium carbonate (4.32 g, 31.3 mmol), and the mixture was stirred at 80° C. overnight. The reaction mixture was cooled to room temperature, chloroform (100 ml) was added, and 1N hydrochloric acid (30 ml) was further added dropwise. After stirring, the mixture was partitioned, and the organic layer was washed with 1N hydrochloric acid (30 ml) and water (30 ml). The organic layer was evaporated under reduced pressure, and the residue was washed with methanol (30 ml). The obtained precipitate was slurry washed with methanol (45 ml) to give 2,3,4-trioctadecanoxybenzophenone (6.35 g, 6.43 mmol, yield 93%).

reactant | 2,3,4-trihydroxybenzophenone | 6.95 mmol, 1.60 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1O)O | C13H10O4
reactant | 1-bromooctadecane | 21.9 mmol, 7.3 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | potassium carbonate | 31.3 mmol, 4.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2,3,4-trioctadecanoxybenzophenone | 6.43 mmol, 6.35 g, yield 93% | C(CCCCCCCCCCCCCCCCC)OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C67H118O4
